US07989454B2
4-[3-{6-[5-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (112 mg, 0.16 mmol), 3-fluorophenylboronic acid (45.23 mg, 0.32 mmol), PdCl2(dppf) (17.63 mg, 0.024 mmol) and cesium carbonate (105.6 mg, 0.32 mmol) in 1,2-dimethoxyethane (5.0 mL) to obtain 4-[3-{6-[5-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (111 mg, 97%) as a colorless oil.

reactant | 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F)CCC(=O)OCC)=O | C38H47F2NO7
reactant | 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.16 mmol, 112 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(=O)N1CC(CC1)(F)F)Br)CCC(=O)OCC)=O | C34H44BrF2NO7
reactant | 3-fluorophenylboronic acid | 0.32 mmol, 45.23 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 0.32 mmol, 105.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 5.0 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.024 mmol, 17.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-{6-[5-(3,3-difluoro-pyrrolidine-1-carbonyl)-3′-fluoro-biphenyl-3-yloxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 111 mg, 97% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(=O)N1CC(CC1)(F)F)C1=CC(=CC=C1)F)CCC(=O)OCC)=O | C40H48F3NO7
